US07459562B2
D′) 1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, hydrochloride salt
Bis-(trifluoroacetoxy)-iodobenzene (Aldrich, 3.09 g, 7.20 mmol, 1.4 eq) was added to a solution of 1-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea (2.19 g, 5.14 mmol, 1.0 eq), water (0.241 mL, 13.4 mmol, 2.6 eq) and pyridine (1.62 mL, 20 mmol, 3.9 eq) in DMF (20 mL) at room temperature and the reaction mixture was stirred for 5 h. The reaction mixture was quenched with 1 N HCl and the aqueous solution extracted with Et2O, discarding the organic layer. The aqueous layer was neutralized with 1 N NaOH and extracted with EtOAc. The combined organic layers were washed with 10% aq LiCl, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (eluting with 0-5% MeOH in CHCl3) and the appropriate fractions were concentrated in vacuo. The residue was dissolved in THF (50 mL) cooled to 0° C. and treated with anhydrous HCl (4N, 10 mL, 40 mmol, 7.8 eq). The reaction mixture was allowed to warm to room temperature and stirred for 2 h resulting in a heterogeneous solution. The solution was filtered and the solid washed with Et2O and dried in vacuo to afford the title compound (1.38 g, 63%) as a solid. 1H NMR (DMSO-d6) δ 11.09 (s, 1H), 10.65 (s, 1H), 7.97-8.00 (m, 1H), 7.83-7.90 (m, 3H), 7.35-7.48 (m, 4H), 7.15-7.21 (m, 2H), 6.70-6.72 (m, 1H), 6.16-6.17 (m, 1H), 3.77 (s, 2H); MS(ESI+) m/z 399 (M+H)+. HRMS(ESI+) calcd.: 399.1269; found: 399.1258. Elem analysis for C20H16N4O3F2 1.0 HCl.0.22H2O Calcd.: C, 54.75; H, 4.01, N, 12.77, Cl; 8.08. Found: C, 54.75; H, 4.35, N, 4.35, Cl; 8.06.

reactant | Bis-(trifluoroacetoxy)-iodobenzene | 7.20 mmol, 3.09 g, 1.4 eq | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 1-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 5.14 mmol, 2.19 g, 1.0 eq | C(N)(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F | C21H16F2N4O4
reactant | water | 13.4 mmol, 0.241 mL, 2.6 eq | O | H2O
reactant | pyridine | 20 mmol, 1.62 mL, 3.9 eq | N1=CC=CC=C1 | C5H5N
reactant | HCl | 40 mmol, 4N, 10 mL, 7.8 eq | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, hydrochloride salt | 1.38 g, 63% | Cl.NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F | InChI=1S/C20H16F2N4O3.ClH/c21-13-3-1-12(2-4-13)9-19(27)26-20(28)25-14-5-6-17(16(22)10-14)29-15-7-8-24-18(23)11-15;/h1-8,10-11H,9H2,(H2,23,24)(H2,25,26,27,28);1H
